Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa(Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Bright red blood per rectum

 
Major Surgical or Invasive Procedure:
Flexible Sigmoidoscopy 
 
History of Present Illness:
Mr. ___ is an ___ yo male with UC, CAD s/p recent NSTEMI vs 
troponin leak, and recent admissions to ___ and ___ for 
lower GI bleeding over past month who presents with bright red 
per rectum and orthostasis with stable hematocrit. Patient had 
orthostasis, dizziness and reported pallor per wife the morning 
of admission after bloody bowel movement. Patient had 
colonoscopy at ___ ___ that showed pancolitis secondary 
to ulcerative colitis for which he was started on prednisone. He 
had some abdominal pain that preceded his bowel movements. 
Patient's daughter reports frequent bowel movements with blood, 
however has only recieved 3 units of pRBCs in total this month 
for bleeds. Patient had not had bloody bowel movements until ___. He denies chest pain, cough, shortness of breath, fever, 
nausea, vomiting, diarrhea.

ED Course: 
- Initial Vitals/Trigger: 97.2 HR 65 119/61 RR 18 sat 98% on RA 
- EKG: NSR, no acute st-t changes per ED
- given IVF 
- GI consulted 

On floor Vitals: 98.2  150/75  HR 63 RR 18 sat 100% on RA
Patient denied current dizziness or abdominal pain once on 
medicine floor.

 
Past Medical History:
Ulcerative Colitis
Diverticulitis
Bullous pemphigoid followed by Dr. ___
Hyperlipidemia
___ cancer treated with radiation
Incisional hernia
Inguinal hernia repair
Colon resection with colostomy and subsequent reversal
Right ear surgery
C-spine surgery
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory. 
 
Physical Exam:
Admission Exam:
PHYSICAL EXAM:  

Vitals: 98.2  150/75  HR 63 RR 18 sat 100% on RA
Gen: NAD, gross hearing impairment
HEENT: moist mucosa
Neck: no masses, no JVD
CV: NR, RR, no murmurs
Pulm: CTAB, good air movement
Abd: NT, ND, soft, +BS
Ext: no peripheral edema
Skin: no lesions noted 
Neuro: A&O, EOMI, no gross deficit
Psych: appropriate, logical

Discharge Exam:
Vitals: AF 97.5  146-186/60-70  HR 60-70  sat 94-98% on RA
Gen: NAD, gross hearing impairment
HEENT: moist mucosa
Neck: no masses, no JVD
CV: NR, RR, no murmurs
Pulm: CTAB, good air movement
Abd: NT, ND, soft
Ext: no peripheral edema
Neuro: A&O, EOMI, no gross deficit

 
Pertinent Results:
Admission labs:
___ 12:20PM BLOOD WBC-12.4* RBC-3.38* Hgb-10.1* Hct-29.8* 
MCV-88 MCH-29.9 MCHC-33.8 RDW-15.7* Plt ___
___ 12:20PM BLOOD Neuts-91.5* Lymphs-4.4* Monos-4.0 Eos-0 
Baso-0.1
___ 12:20PM BLOOD Glucose-105* UreaN-31* Creat-1.1 Na-137 
K-5.4* Cl-107 HCO3-25 AnGap-10
___ 12:20PM BLOOD cTropnT-0.05*

Pertinent labs:
___ 08:00AM BLOOD WBC-7.2 RBC-3.08* Hgb-9.2* Hct-27.6* 
MCV-90 MCH-29.9 MCHC-33.3 RDW-15.9* Plt ___
___ 09:00AM BLOOD WBC-10.6 RBC-3.26* Hgb-9.5* Hct-29.3* 
MCV-90 MCH-29.1 MCHC-32.4 RDW-15.9* Plt ___

Imaging: Flexible Sigmoidoscopy on ___
Diverticulosis of the sigmoid colon and descending colon
Erythema, granularity and abnormal vascularity in the rectum, 
sigmoid colon and descending colon (biopsy)
Otherwise normal sigmoidoscopy to splenic flexure

Discharge labs:

___ 09:00AM BLOOD WBC-10.6 RBC-3.26* Hgb-9.5* Hct-29.3* 
MCV-90 MCH-29.1 MCHC-32.4 RDW-15.9* Plt ___
___ 09:00AM BLOOD Glucose-104* UreaN-27* Creat-1.0 Na-139 
K-3.8 Cl-107 HCO3-28 AnGap-8
___ 08:00AM BLOOD CRP-10.5*
___ 08:00AM BLOOD ESR-12
 
Brief Hospital Course:
Mr. ___ is an ___ yom with UC, CAD s/p recent NSTEMI vs 
troponin leak, multiple admissions to ___ and ___ for lower 
GI bleeding over past month who presented with bright red per 
rectum and orthostasis with stable hematocrit. Patient underwent 
a flexible sigmodiscopy evaluation on ___. Results consistent 
with mild to moderate ulcerative pancolitis but no evidence of 
active bleeding. Patient's bleeding was well controlled with 
prednisone and mesalamine over the hospital admission. 

*Active Issues
# Hematochezia: GI believes may be due to his hemorrhoids, as 
paient's colitis on flex sig was not severe. Hemodynamically 
stable with hematocrit near baseline. 
-continue home PPI  
-pending C diff, stool culture
-f/u bx results from descending colon, sigmoid colon, and rectum
  
# Ulcerative Colitis: Patient reports ___ year history with prior 
proctitis, but now has pancolitis per colonoscopy in ___ at 
___. 
-decreased Prednisone 40mg to 30mg po daily with taper plan by 
GI
-increased Mesalamine ___ 800 mg to 1600mg PO TID 

# Hypertension: Negative orthostasis on ___ ___.
- continue carvedilol at 6.25mg po BID (decreased from home dose 
of 12.5mg po BID given orthostasis on admission)
- started lisinopril 5mg po daily 

*Chronic/stable issues:

# CAD: Recent NSTEMI vs Trop leak with known vessel disease on 
cath in ___. Trop level on admission was 0.05.
- continue home Aspirin 325mg po daily (benefit outweighs risk 
in setting of hemodynamically stable GI bleed)
- continue home statin
- started lisinopril 5mg po daily

# Hx Prostate Cancer: Stable s/p leuprolide and radiation ___ 
with neg PET for metastatic disease.

### Transitional Issues
-please check K+ and creatinine at PCP ___: started lisinopril 
___
-please titrate up lisinopril if needed for blood pressure 
control at PCP visit
-___ currently on steroid taper from ___: 30x1wk, 
20x1wk, 10x1wk per GI

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Calcium Carbonate 500 mg PO BID 
2. Mesalamine ___ 800 mg PO TID 
3. Multivitamins 1 TAB PO DAILY 
4. Atorvastatin 80 mg PO DAILY 
5. Zolpidem Tartrate 10 mg PO HS:PRN insomnia 
6. Carvedilol 12.5 mg PO BID 
7. PredniSONE 40 mg PO DAILY 
8. Pantoprazole 40 mg PO Q24H 
9. Loratadine *NF* 10 mg Oral daily 
10. Aspirin 325 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 325 mg PO DAILY 
2. Atorvastatin 80 mg PO DAILY 
3. Calcium Carbonate 500 mg PO BID 
4. Carvedilol 6.25 mg PO BID 
RX *carvedilol 6.25 mg 1 tablet(s) by mouth once in morning and 
once in late afternoon Disp #*60 Tablet Refills:*0
5. Loratadine *NF* 10 mg Oral daily 
6. Mesalamine ___ 1600 mg PO TID 
RX *mesalamine [Asacol HD] 800 mg 2 tablet(s) by mouth three 
times per day Disp #*180 Tablet Refills:*0
7. Multivitamins 1 TAB PO DAILY 
8. Pantoprazole 40 mg PO Q24H 
9. PredniSONE 30 mg PO DAILY 
RX *prednisone 10 mg 3 tablet(s) by mouth once per day Disp #*42 
Tablet Refills:*0
10. Zolpidem Tartrate 10 mg PO HS:PRN insomnia 
11. Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg 1 tablet(s) by mouth once daily Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hematochezia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, you were admitted to ___ 
___ on ___ for blood in your stool and dizziness. While 
you were here we performed a flexible sigmoidoscopy to evaluate 
your colon. You did have some mild/moderate inflammation from 
your Ulcerative Colitis, and your medications were adjusted. It 
is very important you attend the outpatient appointments listed 
below.
 
Followup Instructions:
___